US04954164
(1) Synthesis of ethyl-5-hydroxy-1-methyl-4-pyrazolecarboxylate
To a solution of 216 g (1 mol) of diethylethoxymethylenemalonate in 216 g of ethanol, there was added 46 g (1 mol) of methylhydrazine at 10° C. Then, at room temperature, the mixture was stirred and further refluxed for one hour, and thereafter the reaction mixture was left to stand. The precipitated crystals were filtered and dried to obtain 148 g of the title compound melting at 134°-135° C.

reactant | diethylethoxymethylenemalonate | 1 mol, 216 g | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
reactant | methylhydrazine | 1 mol, 46 g | CNN | CH6N2
solvent | ethanol | 216 g | C(C)O | C2H6O
product | ethyl-5-hydroxy-1-methyl-4-pyrazolecarboxylate | 148 g | C(C)OC(=O)C=1C=NN(C1O)C | C7H10N2O3
